US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazolin-4(3H)-one (309 mg, 1.0 mmol) were added DIEA (0.36 mL, 2.0 mmol) and phosphorous oxychloride (7.0 mL, 76 mmol, and the mixture was heated at 115° C. for 6 h. The mixture was allowed to cool to rt and then was concentrated under reduced pressure. Toluene was added and evaporated twice to remove residual phosphorous oxychloride. The residue was partitioned between EtOAc (20 mL) and cold saturated aq NaHCO3 (10 mL). The separated EtOAc layer was diluted with EtOAc (60 mL) and washed with saturated aq NaHCO3 (10 mL) and brine (2×10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to afford 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazoline as a brown viscous oil (222 mg).

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazolin-4(3H)-one | 1.0 mmol, 309 mg | FC(C1=NC2=C(C=CC=C2C(N1)=O)F)(C1=NC=C(C=C1)F)F | C14H7F4N3O
reactant | DIEA | 2.0 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazoline | 222 mg | ClC1=NC(=NC2=C(C=CC=C12)F)C(C1=NC=C(C=C1)F)(F)F | C14H6ClF4N3
